US07674807B2
Ethyl 4,4,4-trifluoro-2-(3-methyl-4-nitro-benzyl)-3-oxo-butyrate (2.0 g), hydrazine monohydrate (0.5 g) and a small amount of p-toluenesulfonic acid were dissolved in toluene, and the mixture was refluxed for 4 hours. After cooling, the solvent was distilled off under reduced pressure. The residue was suspended in ethyl acetate and washed with 1N aqueous solution of hydrochloric acid. After drying the organic layer with sodium sulfate, the solvent was distilled off and the obtained residue was purified by silica gel column chromatography to obtain 4-(3-methyl-4-nitro-benzyl)-5-trifluoromethyl-2,4-dihydro-pyrazol-3-one (1.0 g).

reactant | Ethyl 4,4,4-trifluoro-2-(3-methyl-4-nitro-benzyl)-3-oxo-butyrate | 2.0 g | FC(C(C(C(=O)OCC)CC1=CC(=C(C=C1)[N+](=O)[O-])C)=O)(F)F | C14H14F3NO5
reactant | hydrazine monohydrate | 0.5 g | O.NN
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(3-methyl-4-nitro-benzyl)-5-trifluoromethyl-2,4-dihydro-pyrazol-3-one | 1.0 g | CC=1C=C(CC2C(NN=C2C(F)(F)F)=O)C=CC1[N+](=O)[O-] | C12H10F3N3O3
